US07179823B1
Thionyl chloride (4.35 g) was added to a solution of (1-benzyl-5-phenyl-1H-pyrazol-4-yl)methanol (8.06 g) in toluene (100 ml) dropwise at 0° C., and the mixture was stirred at room temperature for one hour and then refluxed for ten minutes. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in ethyl acetate, washed with saturated aqueous sodium bicarbonate and then with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The residue was subjected to silica gel column chromatography, and 1-benzyl-4-chloromethyl-5-phenyl-1H-pyrazole (8.31 g, yield: 96%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:4, volume ratio).

reactant | Thionyl chloride | 4.35 g | S(=O)(Cl)Cl | Cl2OS
reactant | (1-benzyl-5-phenyl-1H-pyrazol-4-yl)methanol | 8.06 g | C(C1=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)CO | C17H16N2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-4-chloromethyl-5-phenyl-1H-pyrazole | 8.31 g, yield: 96% | C(C1=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)CCl | C17H15ClN2
